US04302464
B. 1-(2-chloro-4-pyridyl)-1-ethylenedioxyethane
A mixture of 21.3 g. (0.137 mole) of 1-(2-chloro-4-pyridyl)ethanone and 0.5 g. of p-toluenesulfonic acid in 40 ml. of ethylene glycol and 300 ml. of toluene was placed in a flask fitted with a Dean-Stark trap and condenser, and was heated at reflux temperature for 16 hours. The mixture was cooled and concentrated in vacuo to give an oil which was purified by distillation under reduced pressure, 23.6 g. (86%), b.p. 65° C. (0.05 torr).

reactant | 1-(2-chloro-4-pyridyl)ethanone | 0.137 mole | ClC1=NC=CC(=C1)C(C)=O | C7H6ClNO
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethylene glycol | C(CO)O | C2H6O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(2-chloro-4-pyridyl)-1-ethylenedioxyethane | ClC1=NC=CC(=C1)C1COCCO1 | C9H10ClNO2
